US09340513B2
To a solution of (E)-ethyl 3-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-9-acetoxy-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-3a-yl)-2-methylacrylate (2.0 g, 3.44 mmol) in THF (12 mL), MeOH (8 mL) and water (4 mL) was added sodium hydroxide (5.51 g, 138 mmol). The reaction mixture was stirred at 20° C. for 2 hrs. The reaction mixture was evaporated to dryness and the pH was adjusted to 5 with saturated NH4CI. The solid is solved into DCM (50 mL), washed with water, dried over Na2SO4 and concentrated to yield the (E)-3-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-9-hydroxy-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-3a-yl)-2-methylacrylic acid (1.3 g, 54.8%) as a yellow solid.

reactant | (E)-ethyl 3-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-9-acetoxy-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-3a-yl)-2-methylacrylate | 3.44 mmol, 2.0 g | C(C)(=O)O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5(C([C@H]4CC[C@@H]3[C@]2(CC1)C)=C(C(C5)=O)C(C)C)/C=C(/C(=O)OCC)\C)C)C)(C)C | C37H56O5
reactant | sodium hydroxide | 138 mmol, 5.51 g | [OH-].[Na+]
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | MeOH | 8 mL | CO | CH4O
solvent | water | 4 mL | O | H2O
product | (E)-3-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-9-hydroxy-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-3a-yl)-2-methylacrylic acid | 1.3 g, 54.8% | O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5(C([C@H]4CC[C@@H]3[C@]2(CC1)C)=C(C(C5)=O)C(C)C)/C=C(/C(=O)O)\C)C)C)(C)C | C33H50O4
